US09029560B2
Preparation of 1-[(2-isopropyl-5-methyl-phenyl)carbamothioyl]-3-[[3-[1-[4-(trifluoromethoxy)phenyl]-1H-1,2,4-triazol-3-yl]phenyl]methyl]urea (FB25)
The title compound was prepared as described in Example 75 using 3-(3-(isocyanatomethyl)phenyl)-1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazole (CB34) and 1-(2-isopropyl-5-methylphenyl)thiourea and isolated as an off-white solid (0.181 g, 42%).

reactant | 3-(3-(isocyanatomethyl)phenyl)-1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazole | N(=C=O)CC=1C=C(C=CC1)C1=NN(C=N1)C1=CC=C(C=C1)OC(F)(F)F | C17H11F3N4O2
reactant | 1-(2-isopropyl-5-methylphenyl)thiourea | C(C)(C)C1=C(C=C(C=C1)C)NC(=S)N | C11H16N2S
product | 1-[(2-isopropyl-5-methyl-phenyl)carbamothioyl]-3-[[3-[1-[4-(trifluoromethoxy)phenyl]-1H-1,2,4-triazol-3-yl]phenyl]methyl]urea | C(C)(C)C1=C(C=C(C=C1)C)NC(=S)NC(=O)NCC1=CC(=CC=C1)C1=NN(C=N1)C1=CC=C(C=C1)OC(F)(F)F | C28H27F3N6O2S
